US07253196B2
(1R,2S,4R,5S)-Bicyclo[2.2.1]heptane-2,5-diol
To (1R,2S,4R,5S)-2,5-bis(trimethoxysilyl)bicyclo[2.2.1]heptane (76.9 mmol) was added potassium hydrogen fluoride (33.0 g, 423 mmol), tetrahydrofuran (80.0 mL), methanol (80.0 mL), and urea hydrogen peroxide addition compound (65.0 g, 691 mmol, Aldrich). The resulting white slurry was stirred overnight at 60° C. After cooling to ambient temperature, MnO2 (0.56 g, 6.4 mmol) was added, and the mixture was stirred at this temperature for 4 h. The solids were removed by filtration, and the filter cake was washed with methanol. The combined filtrates were concentrated in vacuo. The residue was dissolved in water (100 mL) and extracted with a CHCl3/i-PrOH mixture (3/1, v/v, 5×100 mL). The combined organic portions were dried over MgSO4 and conc. in vacuo. After triturating the residue with CH2Cl2 and EtOAc, the white solid was collected by filtration. This material was the title compound. A second crop of desired product was obtained by flash column chromatography (0-5% MeOH in EtOAc) from the concentrated filtrate.

reactant | (1R,2S,4R,5S)-2,5-bis(trimethoxysilyl)bicyclo[2.2.1]heptane | 76.9 mmol | CO[Si]([C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)[Si](OC)(OC)OC)(OC)OC | C13H28O6Si2
reactant | potassium hydrogen fluoride | 423 mmol, 33.0 g | F.[K]
reactant | tetrahydrofuran | 80.0 mL | O1CCCC1 | C4H8O
reactant | urea hydrogen peroxide | OO.NC(=O)N
catalyst | MnO2 | 6.4 mmol, 0.56 g | O=[Mn]=O
solvent | methanol | 80.0 mL | CO | CH4O
product | (1R,2S,4R,5S)-Bicyclo[2.2.1]heptane-2,5-diol | [C@H]12[C@H](C[C@H]([C@H](C1)O)C2)O | C7H12O2
